US06380388B1
2,2-Dimethoxyethanol (8.12 g), Et3N (8.99 g), DMAP (80 mg) and toluene (71 mL) are combined and stirred at room temperature. (S)-6-Methoxy-α-methyl-2-naphthaleneacetyl chloride (18.42 g) is added in portions over a period of 8 minutes. The resulting slurry is agitated (35-40° C.) until the reaction is judged to be complete. To the reaction mixture is added water (80 mL) and the phases are separated. The toluene phase is washed with saturated sodium bicarbonate (40 mL) and water (40 mL) and concentrated. Dichloromethane (20 mL) is added and the vacuum evaporation is repeated to produce 21.20 g of 2,2-dimethoxyethyl (S)-6-methoxy-α-methyl-2-naphthaleneacetate.

reactant | 2,2-Dimethoxyethanol | 8.12 g | COC(CO)OC | C4H10O3
reactant | Et3N | 8.99 g | CCN(CC)CC | C6H15N
reactant | toluene | 71 mL | C1(=CC=CC=C1)C | C7H8
reactant | (S)-6-Methoxy-α-methyl-2-naphthaleneacetyl chloride | 18.42 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)Cl)C | C14H13ClO2
catalyst | DMAP | 80 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 80 mL | O | H2O
product | 2,2-dimethoxyethyl (S)-6-methoxy-α-methyl-2-naphthaleneacetate | 21.20 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OCC(OC)OC)C | C18H22O5
